US07696352B2
To a solution of 5-chloro-thiophene-2-carboxylic acid (237 mg, 1.46 mmol), (1-(4-iodophenyl)-1H-pyrazol-4-yl)methanamine (396 mg, 1.32 mmol) and TEA (0.500 mL, 3.59 mmol) in DMF (10 mL), BOP (828 mg, 1.87 mmol) were added. The mixture was stirred at room temperature overnight. H2O and EtOAc were added. The organic phase was separated, washed with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo to give 5-chloro-N-((1-(4-iodophenyl)-1H-pyrazol-4-yl)methyl)thiophene-2-carboxamide (462 mg).

reactant | 5-chloro-thiophene-2-carboxylic acid | 1.46 mmol, 237 mg | ClC1=CC=C(S1)C(=O)O | C5H3ClO2S
reactant | (1-(4-iodophenyl)-1H-pyrazol-4-yl)methanamine | 1.32 mmol, 396 mg | IC1=CC=C(C=C1)N1N=CC(=C1)CN | C10H10IN3
reactant | BOP | 1.87 mmol, 828 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | H2O | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-chloro-N-((1-(4-iodophenyl)-1H-pyrazol-4-yl)methyl)thiophene-2-carboxamide | 462 mg | ClC1=CC=C(S1)C(=O)NCC=1C=NN(C1)C1=CC=C(C=C1)I | C15H11ClIN3OS
